US03998834
A mixture of 2 parts of 1,3-dihydro-2H-inden-2-one, 4.4 parts of methyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate and 80 parts of methanol is hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is dissolved in 2,2'-oxybispropane. The solution is stirred with activated charcoal. The latter is filtered off and the filtrate is evaporated. The residue is converted into the ethanedioate salt in 4-methyl-2-pentanone. The salt is filtered off and crystallized from 2-propanol, yielding methyl 1-(2,3-dihydro-1H-inden-2-yl)-4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate ethanedioate 2-propanolate; mp. 206° C.

reactant | 1,3-dihydro-2H-inden-2-one | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | methyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate | O=C(CC)N(C1=CC=CC=C1)C1(CCNCC1)C(=O)OC | C16H22N2O3
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | methyl 1-(2,3-dihydro-1H-inden-2-yl)-4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate ethanedioate 2-propanolate | CC(C)[O-].C(C(=O)[O-])(=O)[O-].C1C(CC2=CC=CC=C12)N1CCC(CC1)(C(=O)OC)N(C1=CC=CC=C1)C(CC)=O | InChI=1S/C25H30N2O3.C3H7O.C2H2O4/c1-3-23(28)27(21-11-5-4-6-12-21)25(24(29)30-2)13-15-26(16-14-25)22-17-19-9-7-8-10-20(19)18-22;1-3(2)4;3-1(4)2(5)6/h4-12,22H,3,13-18H2,1-2H3;3H,1-2H3;(H,3,4)(H,5,6)/q;-1;/p-2
